US06281356B1
(6-Imidazol-1-yl-1-methyl-1H-indol-3-yl)acetic acid methyl ester (230 mg, 0.85 mmol) was suspended in concentrated NH4OH (5 mL) in a 100 mL flask and stirred in a sealed flask for 24 h. Lyophilization of the mixture gave a crude product, which was chliomatographed on silica gel using 2-8% MeOH in CH2Cl2 to give (6-imidazol-1-yl-1-methyl-1H-indol-3-yl)acetamide (145 mg, 67%).

reactant | (6-Imidazol-1-yl-1-methyl-1H-indol-3-yl)acetic acid methyl ester | 0.85 mmol, 230 mg | COC(CC1=CN(C2=CC(=CC=C12)N1C=NC=C1)C)=O | C15H15N3O2
reactant | NH4OH | 5 mL | [NH4+].[OH-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (6-imidazol-1-yl-1-methyl-1H-indol-3-yl)acetamide | 145 mg, 67% | N1(C=NC=C1)C1=CC=C2C(=CN(C2=C1)C)CC(=O)N | C14H14N4O
